US07825253B2
(5-Benzyloxy-quinolin-2-yl)-(2-methoxy-benzyl)-amine
The title compound, MS: m/e=371.4 (M+H+), was prepared in accordance with the general method of example 47 from 5-quinolinol (CAS 578-67-6), benzyl bromide and 2-methoxybenzylamine.

reactant | 5-quinolinol | N1=CC=CC=2C(=CC=CC12)O | C9H7NO
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 2-methoxybenzylamine | COC1=C(CN)C=CC=C1 | C8H11NO
product | (5-Benzyloxy-quinolin-2-yl)-(2-methoxy-benzyl)-amine | C(C1=CC=CC=C1)OC1=C2C=CC(=NC2=CC=C1)NCC1=C(C=CC=C1)OC | C24H22N2O2
